US06432446B1
by standard esterification technique, reacting cyclohexylphenyl glycolic acid with 4-ethylamino-2-butynyl chloride to produce 4-ethylamino-2-butynyl cyclohexylphenyl-glycolate (DEO).

reactant | cyclohexylphenyl glycolic acid | C1(CCCCC1)C(C(=O)O)(O)C1=CC=CC=C1 | C14H18O3
reactant | 4-ethylamino-2-butynyl chloride | C(C)NCC#CCCl | C6H10ClN
product | 4-ethylamino-2-butynyl cyclohexylphenyl-glycolate | C1(CCCCC1)C(C(=O)OCC#CCNCC)(O)C1=CC=CC=C1 | C20H27NO3
